US06022492
Synthesis of 5-bromo2-(6-dodecyloxypyridin-3-yl)pyrimidine
A reaction of 35 mmol of 2,5-dibromopyrimidine, 27 mmol of 2-dodecyloxypyridine-5-boronic acid, 64 mmol of sodium carbonate and 0.3 mmol of tetrakis(triphenylphosphine)palladium(0) in 210 ml of toluene, 135 ml of ethanol and 70 ml of water is carried out analogously to the procedure indicated for precursor 3. Corresponding purification gives 3.9 g (35%) of a colorless solid.

reactant | 2,5-dibromopyrimidine | 35 mmol | BrC1=NC=C(C=N1)Br | C4H2Br2N2
reactant | 2-dodecyloxypyridine-5-boronic acid | 27 mmol | C(CCCCCCCCCCC)OC1=NC=C(C=C1)B(O)O | C17H30BNO3
reactant | sodium carbonate | 64 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 135 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo2-(6-dodecyloxypyridin-3-yl)pyrimidine | 3.9 g, 35% | BrC=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCCCCCCCC | C21H30BrN3O
